US07943669B2
Step B: [4-(3-Bromo-5-cyclopropylmethoxy-phenylsulfanyl)-2-methyl-phenoxy]-acetic Acid ethyl ester
1,3-Dibromo-5-cyclopropylmethoxy-benzene (5.27 g; 17.23 mmol), (4-Mercapto-2-methyl-phenoxy)-acetic acid ethyl ester (3 g; 13.26 mmol), tris(dibenzylideneacetone)dipalladium (0) (0.36 g; 0.40 mmol), and 1,1′-bis-(diphenylphosphino)ferrocene (0.44 g; 0.80 mmol) was added to a dry reaction flask under an atmosphere of nitrogen. Triethylamine (7.45 mL) and NMP (8 mL) was added, and the reaction mixture was stirred in a microwave oven for 1 h at 140° C. A 5% aqueous citric acid solution (150 mL) was added to the reaction mixture, which was extracted with ethyl acetate (4×100 mL). The pooled organic phases were dried and evaporated in vacuo. The crude reaction product was purified by flash chromatography (heptane:ethyl acetate (20:1→7:3). Yield 2.8 g; 47%). HPLC-MS: m/z: 451.0 (M+); Rt: 2.85 min

reactant | 1,3-Dibromo-5-cyclopropylmethoxy-benzene | 17.23 mmol, 5.27 g | BrC1=CC(=CC(=C1)OCC1CC1)Br | C10H10Br2O
reactant | (4-Mercapto-2-methyl-phenoxy)-acetic acid ethyl ester | 13.26 mmol, 3 g | C(C)OC(COC1=C(C=C(C=C1)S)C)=O | C11H14O3S
reactant | Triethylamine | 7.45 mL | C(C)N(CC)CC | C6H15N
reactant | citric acid | 150 mL | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
catalyst | tris(dibenzylideneacetone)dipalladium | 0.40 mmol, 0.36 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
catalyst | 1,1′-bis-(diphenylphosphino)ferrocene | 0.80 mmol, 0.44 g | C1(=CC=CC=C1)P([C-]1C=CC=C1)C1=CC=CC=C1.[C-]1(C=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.[Fe+2]
solvent | NMP | 8 mL | CN1CCCC1=O | C5H9NO
product | [4-(3-Bromo-5-cyclopropylmethoxy-phenylsulfanyl)-2-methyl-phenoxy]-acetic Acid ethyl ester | C(C)OC(COC1=C(C=C(C=C1)SC1=CC(=CC(=C1)OCC1CC1)Br)C)=O | C21H23BrO4S
